US05491200
3,5-Diaminobenzoyl caprolactam monomer
A mixture of 3,5-dinitrobenzoyl caprolactam (2.00 g, 4.07 mmol), 0.08 g of 5 percent palladium on carbon and 30 ml of absolute ethanol is stirred with hydrogen under a pressure of 1 atmosphere at 10° C. When the theoretical quantity of hydrogen (0.024 mol) has been absorbed, the solution is filtered through celite. White crystals form when the filtrate is kept in a freezer, and the final product is obtained by recrystallization from CH2Cl2 to yield 65 percent of white crystals: mp 122°-124° C.

reactant | 3,5-dinitrobenzoyl caprolactam | 4.07 mmol, 2.00 g | [N+](=O)([O-])C=1C=C(C(=O)C2C(=O)NCCCC2)C=C(C1)[N+](=O)[O-] | C13H13N3O6
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.024 mol | [H][H] | H2
catalyst | palladium on carbon | 0.08 g | [Pd] | Pd
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3,5-Diaminobenzoyl caprolactam | NC=1C=C(C(=O)C2C(=O)NCCCC2)C=C(C1)N | C13H17N3O2
